US06576626B2
To a solution of ethyl 3-[(diethoxymethyl)(ethoxy)phosphoryl]-2-fluoropropanoate (16.0 g, 51.1 mmol) in ethanol (22 mL) was added concentrated ammonium hydroxyde (14.8 N, 3.5 mL, 51.1 mmol). The solution was stirred for 16 h and evaporated. The residue was purified by chromatography on a wet-packed silica gel column (7×37 cm) eluting with 96.5:3.5 methylene chloride/methanol. The appropriate fractions were combined and evaporated to give 3.43 g (27%) of ethyl (3-amino-2-fluoro-3-oxopropyl)(diethoxymethyl)phosphinate as a clear oil. Data: 1H NMR (300 MHz, CDCl3) δ6.43 (s, 1H), 5.70 (s, 1H), 5.21-5.49 (dm, 1H), 4.7 (dd, 1H), 4.18-4.31 (m, 2H), 3.65-3.91 (m, 4H), 2.21-2.81 (m, 2H), 1.30-1.40 (m, 3H), 1.20-1.28 (m, 6H).

reactant | ethyl 3-[(diethoxymethyl)(ethoxy)phosphoryl]-2-fluoropropanoate | 51.1 mmol, 16.0 g | C(C)OC(P(=O)(OCC)CC(C(=O)OCC)F)OCC | C12H24FO6P
reactant | ammonium | [NH4+]
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | ethyl (3-amino-2-fluoro-3-oxopropyl)(diethoxymethyl)phosphinate | 3.43 g, 27% | NC(C(CP(OCC)(=O)C(OCC)OCC)F)=O | C10H21FNO5P
